US04530841
Benzyl 6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate is converted to its enolate derivative with lithium diisopropylamide in anhydrous THF at -78° as described in the previous example. To this solution is added 10 equivalents of acetaldehyde. Workup as described in example 12 yields benzyl 6-(1-hydroxyethyl)-6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | CC1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C15H14ClNO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 10 equivalents | C(C)=O | C2H4O
solvent | THF | C1CCOC1 | C4H8O
product | benzyl 6-(1-hydroxyethyl)-6-methyl-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1(C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl)C | C17H18ClNO4
